US06797731B2
cis-N-Benzyl-N-[4-(2,4-dihydroxyphenyl)cyclohexyl]propanamide
cis-N-Benzyl-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] amine (0.084 g) was dissolved in dichloroethane (7 ml), and triethylamine (0.045 ml) and 4-dimethylaminopyridine (catalytic) added. Propionyl chloride (0.028 ml) was then added, and the mixture stirred at room temperature for 60 hr. The reaction mixture was partitioned between dichloromethane (10 ml) and saturated aqueous sodium hydrogen carbonate (10 ml). The aqueous layer was extracted with dichloromethane (2×10 ml) and the combined organic extracts washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was dissolved with stirring in dichloroethane (16 ml) and heated with a mixture of water (10 ml), methanol (5 ml) and trifluoroacetic acid (10 ml) at 80° C. for 17 hr. Toluene (25 ml) was then added and the mixture concentrated in vacuo. Methanol (25 ml) was then added and the mixture again concentrated in vacuo. Purification via flash chromatography (SiO2, ethyl acetate/petroleum ether) afforded the title compound (0.021 g, 37%) as a colourless solid. Rf 0.20 (ethyl acetate/petroleum ether, 1:1, v/v); m/s(ES+) 354.17 (M+H)+.

reactant | cis-N-Benzyl-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] amine | 0.084 g | C(C1=CC=CC=C1)N[C@@H]1CC[C@@H](CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C31H51NO2Si2
reactant | triethylamine | 0.045 ml | C(C)N(CC)CC | C6H15N
reactant | Propionyl chloride | 0.028 ml | C(CC)(=O)Cl | C3H5ClO
solvent | dichloroethane | 7 ml | ClC(C)Cl | C2H4Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | cis-N-Benzyl-N-[4-(2,4-dihydroxyphenyl)cyclohexyl]propanamide | 0.021 g, 37% | C(C1=CC=CC=C1)N(C(CC)=O)[C@@H]1CC[C@@H](CC1)C1=C(C=C(C=C1)O)O | C22H27NO3
